Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
s/p 11 hour Cystectomy 
 
Major Surgical or Invasive Procedure:
s/p 11 hour Cystectomy 
 
History of Present Illness:
A ___ year old gentleman with a history of high grade 
transitional cell carcinoma of the bladder diagnosed ___ after 
episodes of gross hematuria. His metastatic work up has been 
negative thus far. He is currently s/p an 11 hour radical 
cystoprostatectomy with regional node dissection and ileal 
conduit.  
.  
His 11-hour operative course was significant for ~1800mL of 
blood loss, 8 liters of Crystalloid, 500mL of albumin and 2 
units of pRBCs. 
 
Past Medical History:
TIAs, R Carotid Endarterectomy ___  
Obstructive Sleep Apnea  
Duodenal Ulcer  
Hypertension  
Gout  
Glaucoma  

 
Social History:
___
Family History:
No family history of GU Cancer 
 
Pertinent Results:
___ 07:05AM BLOOD WBC-15.6*# RBC-3.18* Hgb-9.8* Hct-29.2* 
MCV-92 MCH-30.8 MCHC-33.6 RDW-14.4 Plt ___
___ 07:05AM BLOOD Glucose-147* UreaN-16 Creat-0.9 Na-138 
K-4.4 Cl-103 HCO3-27 AnGap-12
___ 10:00PM BLOOD Albumin-2.6* Calcium-7.7* Phos-1.5*# 
Mg-1.7
 
Brief Hospital Course:
The patient was admitted to the Urology service after undergoing 
cystectomy and creation of an ileal conduit on ___.  Please 
see the dictated operative note for details.  He was initially 
admitted to the ICU, where he was kept intubated overnight and 
extubated in the AM.  His ICU course was essentially 
uncomplicated.  He did have one night of delirium and confusion 
that required administration of haldol.  This resolved in the AM 
and did not occur again in his hospitalizion. 

He was transferred to the floor, where he he progressed well, 
slowly advancing his diet after passage of flatus and ambulating 
with the help of ___.  On ___, he was noted to have 
significant drainage of clear serous fluid from the lower aspect 
of his midline abdominal wound.  An ostomy bag was placed over 
the wound, with output > 1L/day.  This fluid was sent for 
creatinine, which was noted to be significantly elevated, highly 
suspicious for urine leak.  A CT Urogram was performed on 
___ which demonstrated extravasation of contrast around the 
ileal conduit.  The exact location of the leak could not be 
localized.  

On ___, a loop-o-gram was performed under fluouroscopy in an 
attempt to localize the urine leak.  Unfortunately, the leak 
could not be localized.  On ___, a left antegrade 
nephrostogram was performed, which demonstrated that the left 
ureteroileal anastamosis was intact and without a leak.  The 
scan did demonstrate a persistent extravasation of contrast 
which once again, could not be localized.  

On ___, repeat L antegrade nephrostogram and L PCN removal 
was performed, which again demonstrated a leak that could not be 
localized.  A urethral catheter was placed to drain the 
abdominal cavity.  At first, this drained significantly, and the 
fluid was sent for creatinine, which was consistent with urine.  
A catheter was also placed into the ileal loop to decompress the 
loop.  This drained significantly, and also significantly 
reduced the amount of drainage from the abdominal drain.  In 
fact, creatinine checks of the abdominal drain after catheter 
decompression of the loop were NOT consistent with urine (all 
creatinines were <1.5).  

The patient's urine leak was therefore managed conservatively 
with catheter decompression of the loop.  Multiple CT Urograms 
were performed to evaluate the urine leak, which reduced 
significantly before discharge.  The ostomy appliance was 
changed before discharge, and the catheter in the urostomy was 
replaced and sutured to the ostomy appliance.  Strict 
instructions were given to the rehab facility not to manipulate 
the ostomy appliance or the catheter decompressing the loop.  Of 
onte, three days before discharge, the output from the pt's 
abdominal drain appeared milky.  It was sent for triglycerides, 
which was elevated > 110, consistent with a small chylous leak.  
However, the volume of leak/day was significantly < 500 cc, and 
was therefore considered not to be clinically significant.  
Nevertheless, the patient was instructed to eat a low-fat diet 
high in medium-chain triglycerides.  Before discharge, the 
patient completed a seven day course of ceftriaxone for empiric 
prophylaxis against forming infected fluid collections in the 
pelvis.  The pt remained afebrile throughout his 
hospitalization.  On discharge to rehab, he was walking without 
difficulty, including traversing stairs, his urostomy was 
draining well with catheter decompression, and his urethral 
catheter was removed.  He was given instructions to call Dr. 
___ office to arrange a f/u appt the ___ after 
discharge, at which point his ostomy appliance would be changed 
with the help of the ostomy nurse.  
 
Medications on Admission:
Lumigan 0.03% 1 gtt ___  
Alphagan 0.15% 1 gtt ___ BID  
HCTZ 12.5mg PO Daily  
Lisinopril 20mg PO Daily  
Metoprolol 12.5mg PO BID  
Ranitidine 150mg PO BID  
Simvastatin 20mg PO Daily  
MVI 1 tab PO daily  
Vitamin C 1g PO Daily  
B Complex 1 tab PO Daily  
Calcium + Vit D3 500mg/200International Units PO BID  

 
Discharge Medications:
1. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
3. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
4. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
5. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours).  
6. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Bladder cancer

 
Discharge Condition:
stable

 
Discharge Instructions:
Rehab:
1. Please do not manipulate the foley catheter that is in his 
ileal conduit - this is essential to his treatment and should 
not be manipulated.  His ostomy appliance will be changed at his 
next urology outpatient appointment.  Please do not change it 
until then, or unless there is an emergency.
2. Please walk with patient daily at last four times.
3. Please keep the ostomy bag to gravity drainage to a foley bag 
at all times unless the pt is being transported.  
4. Please call if there is any drainage from his midline 
abdominal wound.
5. Please call if the pt's creatinine is increasing > 1.2, as 
this may be an indication of an ongoing urine leak
6. Please check the pt's serum creatinine every other day.

-Please resume all home meds

-Do not drive while taking oxycodone. Please take Tylenol in 
addition to oxycodone, and transition to Tylenol as pain 
improves.

-You may shower, but do not immerse incision, no tub 
baths/swimming.

-Small white steri-strips bandages will fall off in ___ days, 
you may remove at that time if irritating.

-Call if incision becomes markedly more red, swollen, or begins 
to drain purulent fluid, or for fever more than 101.5.

 
Followup Instructions:
___